*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MVR1247C-361
* Inductance = 360nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MVR1247C-361_freq port1 port2 PARAMS: Cpar=3.06pF Ind=0.36uH
X1 port1 port2 Model1A PARAMS:
+ R1=300
+ R2=0.000925
+ C= {Cpar}
+ K1=0.000018
+ K2=0.046
+ K3= {Ind}
+ K4=0.021
+ K5=0.0000098
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=241.074499
.ends MVR1247C-361_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MVR1247C-361
* Inductance = 360nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MVR1247C-361_imp port1 port2 PARAMS: Cpar=1.756pF Ind=0.36uH
X1 port1 port2 Model1D PARAMS:
+ R1=300
+ R2=0.000925
+ C= {Cpar}
+ K1=0.000018
+ K2=0.046
+ K3= {Ind}
+ K4=0.021
+ K5=0.0000098
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=241.074499
.ends MVR1247C-361_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MVR1251T-251
* Inductance = 250nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MVR1251T-251_freq port1 port2 PARAMS: Cpar=1.68pF Ind=0.25uH
X1 port1 port2 Model1A PARAMS:
+ R1=100
+ R2=0.000925
+ C= {Cpar}
+ K1=0.000015
+ K2=0.087
+ K3= {Ind}
+ K4=0.004
+ K5=0.0000098
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=695.243263
.ends MVR1251T-251_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MVR1251T-251
* Inductance = 250nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MVR1251T-251_imp port1 port2 PARAMS: Cpar=1.471pF Ind=0.25uH
X1 port1 port2 Model1D PARAMS:
+ R1=100
+ R2=0.000925
+ C= {Cpar}
+ K1=0.000015
+ K2=0.087
+ K3= {Ind}
+ K4=0.004
+ K5=0.0000098
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=695.243263
.ends MVR1251T-251_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MVR1251T-361
* Inductance = 360nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MVR1251T-361_freq port1 port2 PARAMS: Cpar=1.66pF Ind=0.36uH
X1 port1 port2 Model1A PARAMS:
+ R1=85
+ R2=0.000925
+ C= {Cpar}
+ K1=0.000008
+ K2=0.058
+ K3= {Ind}
+ K4=0.008
+ K5=0.0000098
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=623.30796
.ends MVR1251T-361_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MVR1251T-361
* Inductance = 360nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MVR1251T-361_imp port1 port2 PARAMS: Cpar=1.379pF Ind=0.36uH
X1 port1 port2 Model1D PARAMS:
+ R1=85
+ R2=0.000925
+ C= {Cpar}
+ K1=0.000008
+ K2=0.058
+ K3= {Ind}
+ K4=0.008
+ K5=0.0000098
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=623.30796
.ends MVR1251T-361_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MVR1251T-561
* Inductance = 560nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MVR1251T-561_freq port1 port2 PARAMS: Cpar=1.64pF Ind=0.56uH
X1 port1 port2 Model1A PARAMS:
+ R1=200
+ R2=0.000925
+ C= {Cpar}
+ K1=0.00001
+ K2=0.07
+ K3= {Ind}
+ K4=0.015
+ K5=0.0000098
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=586.39707
.ends MVR1251T-561_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MVR1251T-561
* Inductance = 560nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MVR1251T-561_imp port1 port2 PARAMS: Cpar=1.315pF Ind=0.56uH
X1 port1 port2 Model1D PARAMS:
+ R1=200
+ R2=0.000925
+ C= {Cpar}
+ K1=0.00001
+ K2=0.07
+ K3= {Ind}
+ K4=0.015
+ K5=0.0000098
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=586.39707
.ends MVR1251T-561_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MVR1255C-651
* Inductance = 650nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MVR1255C-651_freq port1 port2 PARAMS: Cpar=2.9pF Ind=0.65uH
X1 port1 port2 Model1A PARAMS:
+ R1=300
+ R2=0.0015
+ C= {Cpar}
+ K1=0.000022
+ K2=0.088
+ K3= {Ind}
+ K4=0.025
+ K5=0.0000098
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=427.354571
.ends MVR1255C-651_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MVR1255C-651
* Inductance = 650nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MVR1255C-651_imp port1 port2 PARAMS: Cpar=2.115pF Ind=0.65uH
X1 port1 port2 Model1D PARAMS:
+ R1=300
+ R2=0.0015
+ C= {Cpar}
+ K1=0.000022
+ K2=0.088
+ K3= {Ind}
+ K4=0.025
+ K5=0.0000098
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=427.354571
.ends MVR1255C-651_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MVR1261C-112
* Inductance = 1.1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MVR1261C-112_freq port1 port2 PARAMS: Cpar=2.63pF Ind=1.1uH
X1 port1 port2 Model1A PARAMS:
+ R1=300
+ R2=0.00195
+ C= {Cpar}
+ K1=0.000025
+ K2=0.14
+ K3= {Ind}
+ K4=0.044
+ K5=0.0000098
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=663.743323
.ends MVR1261C-112_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MVR1261C-112
* Inductance = 1.1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MVR1261C-112_imp port1 port2 PARAMS: Cpar=1.912pF Ind=1.1uH
X1 port1 port2 Model1D PARAMS:
+ R1=300
+ R2=0.00195
+ C= {Cpar}
+ K1=0.000025
+ K2=0.14
+ K3= {Ind}
+ K4=0.044
+ K5=0.0000098
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=663.743323
.ends MVR1261C-112_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MVR1271C-162
* Inductance = 1.6uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MVR1271C-162_freq port1 port2 PARAMS: Cpar=2.78pF Ind=1.65uH
X1 port1 port2 Model1A PARAMS:
+ R1=300
+ R2=0.00253
+ C= {Cpar}
+ K1=0.000035
+ K2=0.2
+ K3= {Ind}
+ K4=0.056
+ K5=0.0000098
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=894.525778
.ends MVR1271C-162_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MVR1271C-162
* Inductance = 1.6uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MVR1271C-162_imp port1 port2 PARAMS: Cpar=2.158pF Ind=1.65uH
X1 port1 port2 Model1D PARAMS:
+ R1=300
+ R2=0.00253
+ C= {Cpar}
+ K1=0.000035
+ K2=0.2
+ K3= {Ind}
+ K4=0.056
+ K5=0.0000098
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=894.525778
.ends MVR1271C-162_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MVR1278C-232
* Inductance = 2.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-70MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MVR1278C-232_freq port1 port2 PARAMS: Cpar=4.3pF Ind=2.3uH
X1 port1 port2 Model1A PARAMS:
+ R1=240
+ R2=0.00308
+ C= {Cpar}
+ K1=0.000045
+ K2=0.3
+ K3= {Ind}
+ K4=0.07
+ K5=0.0000098
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1050.7019
.ends MVR1278C-232_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MVR1278C-232
* Inductance = 2.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-70MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MVR1278C-232_imp port1 port2 PARAMS: Cpar=3.488pF Ind=2.3uH
X1 port1 port2 Model1D PARAMS:
+ R1=240
+ R2=0.00308
+ C= {Cpar}
+ K1=0.000045
+ K2=0.3
+ K3= {Ind}
+ K4=0.07
+ K5=0.0000098
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1050.7019
.ends MVR1278C-232_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Impedance Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   Time Domain Inductor Impedance Model
*======================================================================
.subckt Model1D Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K3=1
+ PkZ=1
R2 Lin N001 {R2}
R3 N001 Lout {PkZ}
C1 N001 N002 {C}
R1 N002 Lout {R1}
L1 N001 Lout {K3}
.ends Model1D

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Power Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model1A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K2=1
+ K3=1
+ K4=1
+ K5=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar2 N001 Lout LAPLACE { V(N001, Lout) } {1/K2/(-S*S/4/PI^2)^0.25}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
G_Lvar N003 Lout  LAPLACE { V(N003, Lout) } {1/(S*1e-6*({K3*1e6}-({K4}*LOG({K5}*(sqrt(-S*S)/(2*pi))))))}
*This large resistance to ground has been added to prevent a floating node error
R3 N003 0 100Meg
.ends Model1A


.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
